Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ace Inhibitors / Penicillins / aspirin / NSAIDS (Non-Steroidal 
Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
Fevers, chills, night sweats
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ gentleman with T-cell lymphoma, CLL, MGUS with low IgA, 
left maxillary sinus abscess in ___ (polymicrobial, 
including MSSA) presents with chills since yesterday afternoon. 
Patient noticed chills and sweats and took his temperature which 
was 100.2. He took 1 g of Tylenol and went to bed, awaking 
several times during the night with alternating drenching sweats 
and chills. He called his ENT doctor this morning, who 
recommended the he come in for evaluation. Of note, Dr ___ 
left maxillar sinus abscess in ___ that grew multiple 
organisms including MSSA, due to dental implant, complicated by 
osteomyelitis. OPAT followed for 10wks of IV abx (vanc/moxi). Pt 
reports infx resolved by ___, uses saline wash everyday and 
last night did not have any drainage which is atypical for him, 
and says that fevers/chills/sweats were very reminicent of 
episode in ___. Patient denies nausea, vomiting, cough, 
headache, stiff neck or dysuria.  
In the ED, initial vitals T99.4, HR83 BP153/87 RR16 97%RA. Blood 
cultures were drawn, UA was negative, CXS was unrevealing. WBC 
was 6.2, Lactate 1.4. ENT recommended CT sinus to rule out 
abscess and infection. They reviewed the results and felt low 
concern for recurrent abscess or osteomyelitis. He was given ___ 
___ transferred to the floor for concern for recurrent 
osteomyelitis vs abscess recurrence.  
Vitals prior to transfer: T98.5, HR79 BP141/86 RR18 95%RA  
Currently, feels fair, no fevers or chills, complaining only of 
___ L facial pain he says has been constant since extraction of 
implant during ___ episode.  
ROS: per HPI, denies headache, rhinorrhea, congestion, sore 
throat, cough, shortness of breath, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, blood in stool or urine, dysuria, 
myalgias or sick contacts.  

 
Past Medical History:
- Lymphoma:  
-- ___: MGUS IgG, IgM  
-- ___: Cutaneous T (large) cell anaplastic lymphoma (CD3+)  
-- ___: Small lymphocytic lymphoma B-cell & CLL (LN bx)  
retroperitoneal & mesenteric nodes present  
- BPH  
- Mild chronic anemia  
- HTN, asthma  
SURGICAL HISTORY:  
- ___: L upper (#14) dental implant  
- ___: Permanent abutment placed  
- ___: Sinus surgery: removal of L concha bullous, anterior 
 
ethmoidectomy & L maxillary antrostomy, grew MSSA  
- Back surgery:  
-- ___: L5-S1  
-- ___: microsurgery L4-L5  
-- ___: microsurgery L3-L4  
- L inguinal herniorrhaphy  

 
Social History:
___
Family History:
- Non-contributory to dental infection, no FMHx of recurrent 
infection
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - T98.1, BP144/92, HR 88, RR16, 98%RA  
GENERAL - Older man appearing much younger than chronological 
age, in NAD  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, ?Shotty cervical ___  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - RRR, S1-S2 clear no MRG  
ABDOMEN - NABS, soft/ND, mild suprapubic TTP, no 
rebound/guarding  
EXTREMITIES - WWP, no clubbing, trace edema, 2+ peripheral 
pulses (radials, DPs, Posterior tibials)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ BUE and BLE, sensation grossly intact and symmetric on BLE 
and BUE  

DISCHARGE PHYSICAL EXAM:  
VS - T98.9, BP120/70, HR 77, RR16, 95%RA  
GENERAL - Older man appearing much younger than chronological 
age, in NAD  
HEENT - NC/AT, PERRL, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, ?Shotty cervical ___  
LUNGS - Lungs are clear to ausculatation bilaterally, moving air 
well and symmetrically, resp unlabored, no accessory muscle use  

HEART - RRR, S1-S2 clear no MRG  
ABDOMEN - NABS, soft/ND, mild suprapubic TTP, no 
rebound/guarding  
EXTREMITIES - WWP, no clubbing, trace edema, 2+ peripheral 
pulses (radials, DPs, Posterior tibials)  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ BUE and BLE, sensation grossly intact and symmetric on BLE 
and BUE  

 
Pertinent Results:
ADMISSION LABS:
___ 01:25PM BLOOD WBC-6.2 RBC-4.50* Hgb-14.0 Hct-40.5 
MCV-90 MCH-31.0 MCHC-34.5 RDW-13.8 Plt ___
___ 01:25PM BLOOD ___ PTT-45.1* ___
___ 01:25PM BLOOD Glucose-122* UreaN-22* Creat-0.9 Na-139 
K-3.8 Cl-104 HCO3-23 AnGap-16
___ 01:25PM BLOOD Calcium-9.6 Phos-2.2* Mg-1.9
___ 01:32PM BLOOD Lactate-1.4
___ 01:25PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL

DISCHARGE LABS:
___ 07:23AM BLOOD WBC-5.9 RBC-4.44* Hgb-13.8* Hct-39.7* 
MCV-89 MCH-31.1 MCHC-34.8 RDW-13.7 Plt ___
___ 07:23AM BLOOD Glucose-163* UreaN-21* Creat-0.9 Na-138 
K-3.6 Cl-104 HCO3-24 AnGap-14
___ 07:23AM BLOOD Calcium-9.1 Phos-2.6* Mg-1.6

PERTINENT MICRO:
BLOOD CULTURE ___ Blood Culture, Routine-PENDING at time 
of discharge 
BLOOD CULTURE ___ Blood Culture, Routine-PENDING at time 
of discharge

PERTINENT IMAGING:
CT SINUS/MANDIBLE/MAXILLOFACIAL ___
IMPRESSION:   
In comparison to ___ exam, there is interval improvement 
of sinus 
disease.  Mild mucosal thickening of maxillary sinuses and 
moderate mucosal thickening of ethmoid air cells are present.  
Ostiomeatal units are patent. 

2-view CXR ___
Two views of the chest were obtained.  The lungs are well 
expanded and clear. There has been interval removal of left 
PICC.  There is no pleural effusion or pneumothorax.  Heart is 
normal in size with normal cardiomediastinal contours. 
IMPRESSION:  No acute intrathoracic process. 

 
Brief Hospital Course:
___ gentleman with T-cell lymphoma, CLL, MGUS with low IgA, 
left maxillary sinus abscess in ___ (polymicrobial, 
including MSSA) presents with chills since day prior to 
admission, with now obvious source of infection, stable upon 
admission. 

# Fevers/Chills: Likely due to viral illness vs bacterial vs 
underlying lymphoma. Complained of fevers, chills, and decreased 
return when using his daily nasal flushes. Pt was concerned for 
recurrence of dental infection as felt symptoms simliar to 
infection in ___ of last year and so presented to the ED 
after contacting his ENT's office. Upon arrival to the ED he was 
afebrile without leukocytosis, UA and CXR were unrevealing, and 
CT of the head showed interval improvement of known disease, no 
evidence of osteomyelitis or abscess recurrence. Patient had no 
further fevers or chills during this admission and blood 
cultures from ___ had no growth to date at time of discharge 
on ___. 
-Patient instructed to call PCP for appointment within ___ weeks 
of discharge or to call sooner if fevers/chills recur. 

#Electrolytes: Upon discharge, potassium was 3.6 and magnesium 
was 1.6. Patient declined repletion.
-Instructed patient to eat high potassium foods today

#Chronic Issues:
# Small lymphocytic lymphoma (b-cell) & cutaneous t-cell 
lymphoma: complications include neurogenic bladder, chronic 
constipation, skin lesions, anemia.  Patient was clinically 
stable on home medications including home bowel regimen, 
betamethason gel for skin lesions, omeprazole, diazepam for 
bladder dysfunction.
  
# Hypertension, hyperlipidemia: patient was clinically stable on 
home regimen of  labetalol, hydrochlorothiazide, caduet (as 
amlodipine and atorvastatin)  

# Asthma: Clinically stable on home medications, singulair and 
prn Aerobid, albuterol  

Transitional issues for this patient:
-Follow up of blood cultures from ___ (no growth as of 
___ with primary care doctor within ___ weeks. 
 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Multivitamins 1 TAB PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Labetalol 200 mg PO QAM 
4. Labetalol 300 mg PO QHS 
5. Montelukast Sodium 10 mg PO DAILY 
6. Aerobid Inhaler *NF* 1 puff Inhalation DAILY:PRN allergies 
7. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze 
8. Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP DAILY:PRN 
lymphoma 
9. Diazepam 2 mg PO TID neurogenic bladder 
Pt may refuse 
10. Omeprazole 40 mg PO DAILY 
11. Polyethylene Glycol 17 g PO DAILY 
pt may refuse 
12. Ketoconazole Shampoo 1 Appl TP ASDIR 
13. Caduet *NF* (amlodipine-atorvastatin) ___ mg Oral daily 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN wheeze 
2. Betamethasone Dipro 0.05% Augmented Gel 1 Appl TP DAILY:PRN 
lymphoma 
3. Diazepam 2 mg PO TID neurogenic bladder 
Pt may refuse 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Ketoconazole Shampoo 1 Appl TP ASDIR 
6. Labetalol 200 mg PO QAM 
7. Montelukast Sodium 10 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Omeprazole 40 mg PO DAILY 
10. Aerobid Inhaler *NF* 1 puff Inhalation DAILY:PRN allergies 
11. Labetalol 300 mg PO QHS 
12. Polyethylene Glycol 17 g PO DAILY 
pt may refuse 
13. Caduet *NF* (amlodipine-atorvastatin) ___ mg Oral daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Fevers and Chills, unknown etiology

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___ was a pleasure caring for you during your hospitalization at 
___. You were admitted after experiencing fevers, chills, and 
night sweats at home, out of concern for infection, possibly 
relating to your former dental abscess. Chest xray and urine 
studies and CT of the sinuses were all unremarkable for 
infection. Blood cultures were still pending at the time of your 
discharge, you should discuss these with your PCP at your next 
visit. Given your stable clinical status, we felt you are safe 
to return home and follow up on the blood cultures with your 
PCP. 

We did not make any changes to your medications.
 
Followup Instructions:
___